US07183276B2
A mixture of 2-bromo-4′-chloropropiophenone (45.0 g), thiobenzamide (24.7 g), sodium acetate (14.8 g) and ethanol (400 mL) was stirred with heating under reflux for 3 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give 4-(4-chlorophenyl)-5-methyl-2-phenylthiazole (35.1 g, 68%) as crystals. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 90–91° C.

reactant | 2-bromo-4′-chloropropiophenone | 45.0 g | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
reactant | thiobenzamide | 24.7 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | sodium acetate | 14.8 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 400 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(4-chlorophenyl)-5-methyl-2-phenylthiazole | 35.1 g, 68% | ClC1=CC=C(C=C1)C=1N=C(SC1C)C1=CC=CC=C1 | C16H12ClNS
